US04857530
3-(Diethylamino)-1-[4-(2-propynylamino)phenyl]-1 -propanone
3-(Diethylamino)-1-[4-fluorophenyl]-1-propanone (Pharmazie, 35, H.7 (1980)), 5 g (0.022 mol), is treated with a mixture of propargylamine, 2.47 g (0.045 mol), potassium carbonate, 3.09 g, and potassium fluoride, 1.3 g (0.022 mol), in dimethylsulfoxide between 50° and 100° C. until TLC shows formation of the aminated product is complete. The reaction is poured into water and the solid is collected. Chromatography of the crude material over silica gel affords the desired product.

reactant | 3-(Diethylamino)-1-[4-fluorophenyl]-1-propanone | C(C)N(CCC(=O)C1=CC=C(C=C1)F)CC | C13H18FNO
reactant | propargylamine | C(C#C)N | C3H5N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium fluoride | [F-].[K+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-(Diethylamino)-1-[4-(2-propynylamino)phenyl]-1 -propanone | C(C)N(CCC(=O)C1=CC=C(C=C1)NCC#C)CC | C16H22N2O
